US06410734B1
5-[4(1,4-Dioxa-8-aza-spiro[4,5]dec-8-yl)-benzylidene]-2-thioxothiazolidin-4-one
A mixture of 4-(1,4-dioxa-8-aza-spiro[4,5]dec-8-yl)-benzaldehyde (Taylor, E. C., Skotnicki, J. S. Synthesis, 1981, 606) (4.96 g, 20 mol), rhodanine (2.66 g, 20 mmol), and β-alanine (2.0 g, 22.5 mmol) in 50 mL of acetic acid was refluxed for 2 hours. The solid which was formed on cooling the solution was collected to give the title compound as a red solid (4.8 g, 66%); 1H NMR (300 MHz, CDCl3) δ1.81 (t, J=5.5 Hz, 4 H), 3.55 (t, J=5.5 Hz, 4 H), 4.00 (s, 4 H), 6.92 (d, J=8.9 Hz, 2 H), 7.58 (d, J=8.9 Hz, 2 H), 7.38 (s, 1 H); MS (ES) m/z: 362.8 (MH+); HRMS Calcd. for C17H19N2O3S2(MH+): 363.0837. Found: 363.0852. Anal. Calcd. for C17H18N2O3S2: C, 56.33; H, 5.01; N, 7.73. Found: C, 56.28; H, 4.89; N, 7.73.

reactant | 4-(1,4-dioxa-8-aza-spiro[4,5]dec-8-yl)-benzaldehyde | 20 mol, 4.96 g | O1CCOC12CCN(CC2)C2=CC=C(C=O)C=C2 | C14H17NO3
reactant | rhodanine | 20 mmol, 2.66 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | β-alanine | 22.5 mmol, 2.0 g | NCCC(=O)O | C3H7NO2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 5-[4(1,4-Dioxa-8-aza-spiro[4,5]dec-8-yl)-benzylidene]-2-thioxothiazolidin-4-one | 4.8 g, 66% | O1CCOC12CCN(CC2)C2=CC=C(C=C1C(NC(S1)=S)=O)C=C2 | C17H18N2O3S2
